* NGSPICE file created from sc_tieh_tiel.ext - technology: gf180mcuD

.subckt gf180mcu_fd_sc_mcu9t5v0__tieh VDD VSS Z VNW VPW
X0 Z a_125_157# VDD VNW pfet_05v0 ad=0.396p pd=2.68u as=0.396p ps=2.68u w=0.9u l=0.5u
X1 a_125_157# a_125_157# VSS VPW nfet_05v0 ad=0.2904p pd=2.2u as=0.2904p ps=2.2u w=0.66u l=0.6u
.ends

.subckt gf180mcu_fd_sc_mcu9t5v0__tiel VDD VSS ZN VNW VPW
X0 ZN a_124_157# VSS VPW nfet_05v0 ad=0.2904p pd=2.2u as=0.2904p ps=2.2u w=0.66u l=0.6u
X1 a_124_157# a_124_157# VDD VNW pfet_05v0 ad=0.396p pd=2.68u as=0.396p ps=2.68u w=0.9u l=0.5u
.ends

.subckt sc_tieh_tiel VDD VSS tieH tieL
Xgf180mcu_fd_sc_mcu9t5v0__tieh_0 VDD VSS tieH VDD VSS gf180mcu_fd_sc_mcu9t5v0__tieh
Xgf180mcu_fd_sc_mcu9t5v0__tiel_0 VDD VSS tieL VDD VSS gf180mcu_fd_sc_mcu9t5v0__tiel
.ends

